* Closed-loop follower testbench for transient / THD.
* The amp is wired as a real unity-gain follower (inn = out), driven with a
* 1 kHz sine centered at mid-supply (NOT at {vincm}: THD must be measured on
* the same large swing at every corner). Amplitude vamp=1.3 V sweeps
* 0.35..2.95 V at vdd=3.3 - about 80% of the supply, exercising both input
* pairs and the constant-gm crossover.
V2 vdd GND {vdd}
Vc netc GND {vdd*0.5}
V4 vdin GND dc 0 sin(0 {vamp} 1e3)
E1 inp netc vdin GND 1
Vbp vdd vbias_p {v_bias_p}
Vbn vbias_n GND {v_bias_n}
* constant-gm switch references (see opamp_rtr.spice): rail-referenced
Vrp vdd nrefp {v_ref_p}
Vrn nrefn GND {v_ref_n}
* mid-supply node: return for the application load only
Vmid nmid GND {vdd*0.5}
* inn tied directly to out (same node) = unity-gain follower
x1 vdd GND vbias_p vbias_n nrefp nrefn inp out out opamp
* application load: diff-amp feedback network (~10k) to mid-supply + parasitics
RL out nmid 10e3
.param cl=5e-12
.param vamp=1.3
CL out GND {cl}

.GLOBAL GND
.end
